US05696054
Preparation of 6-Hydroxymethyl-2,2-dimethyl-5-phenyl-2H,4H-1,3-dioxin-4-one (Compound No. 236)
6-Acetyloxymethyl-2,2-dimethyl-5-phenyl-2H,4H-1,3-dioxin-4-one (Compound No. 241, 7.46 g) was dissolved in methanol (108 ml), and cooled with ice; then, an aqueous solution (27 ml) of potassium carbonate (2.42 g) was added slowly thereto.

reactant | 6-Acetyloxymethyl-2,2-dimethyl-5-phenyl-2H,4H-1,3-dioxin-4-one | 7.46 g | C(C)(=O)OCC1=C(C(OC(O1)(C)C)=O)C1=CC=CC=C1 | C15H16O5
reactant | potassium carbonate | 27 ml, 2.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 108 ml | CO | CH4O
product | 6-Hydroxymethyl-2,2-dimethyl-5-phenyl-2H,4H-1,3-dioxin-4-one | OCC1=C(C(OC(O1)(C)C)=O)C1=CC=CC=C1 | C13H14O4
